US08466150B2
3-(benzyloxycarbonylamino)-4-fluorobenzoic acid
To a solution of 3-amino-4-fluorobenzoic acid (30 g, 193 mmol) in a mixture of tetrahydrofuran (300 mL) and water (300 mL) was added cesium carbonate (157 g, 483 mmol) and benzyl chloroformate (30.4 mL, 213 mmol). This mixture was stirred at ambient temperature for 16 hours, and was concentrated to about 200 mL. The residue was acidified with 2N HCl to a pH 3, and was partitioned between ethyl acetate and brine. The precipitated solid was collected by filtration, washed with ethyl acetate and water, and dried to provide the title compound. MS (DCI/NH3) m/z 290 (M+H)+.

reactant | 3-amino-4-fluorobenzoic acid | 193 mmol, 30 g | NC=1C=C(C(=O)O)C=CC1F | C7H6FNO2
reactant | cesium carbonate | 483 mmol, 157 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl chloroformate | 213 mmol, 30.4 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | water | 300 mL | O | H2O
product | 3-(benzyloxycarbonylamino)-4-fluorobenzoic acid | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C(=O)O)C=CC1F | C15H12FNO4
